US04146630
1-Acetyl-3-acetoxymethyl-4-benzyloxy-indazole
This is obtained by nitrosation and subsequent ring closure by treating 2-(2-acetoxyethyl)-3-acetamidophenyl benzyl ether with isoamyl nitrite, sodium acetate and acetic anhydride in toluene at 80° C. It is obtained in the form of colorless crystals; m.p. 99°-100° C.

reactant | 2-(2-acetoxyethyl)-3-acetamidophenyl benzyl ether | C(C1=CC=CC=C1)OC1=C(C(=CC=C1)NC(C)=O)CCOC(C)=O | C19H21NO4
reactant | isoamyl nitrite | N(=O)OCCC(C)C | C5H11NO2
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-Acetyl-3-acetoxymethyl-4-benzyloxy-indazole | C(C)(=O)N1N=C(C2=C(C=CC=C12)OCC1=CC=CC=C1)COC(C)=O | C19H18N2O4
